US06297401B1
Preparation of 3-Formamido-2-hydroxy-N-(3-ethyl-3,5,5-trimethylcyclohexyl)-benzamide
To a solution of N-(3-ethyl-3,5,5-trimethylcyclohexyl)-2-hydroxy-3-nitrobenzamide (3.60 g) in ethyl acetate (75 ml) was added 5% Pd/C (0.40 g) catalyst. The resulting mixture was subjected to a hydrogen atmosphere (initial H2 pressure=50 psi) using a Parr shaker apparatus. When hydrogen uptake ceased (approximately 30 minutes), the hydrogen atmosphere was purged. A stir bar was added to the reaction bottle and to the stirred reaction mixture acetic-formic anhydride (3 ml) was added all at once. After stirring at room temperature for 30 minutes, the reaction was filtered, washed with saturated sodium bicarbonate solution (100 ml). then with a saturated sodium chloride solution (100 ml), dried (MgSO4) and the solvent evaporated to give the desired product as a white solid foam (3.5 g). An analytical sample could be prepared by recrystallization from a methanol/water mixture to give an off-white crystalline solid (m.p.=166-168° C.). 13C NMR (CDCl3) showed this material to be approximately a 6:4 mixture of diastereomers.

reactant | N-(3-ethyl-3,5,5-trimethylcyclohexyl)-2-hydroxy-3-nitrobenzamide | 3.60 g | C(C)C1(CC(CC(C1)(C)C)NC(C1=C(C(=CC=C1)[N+](=O)[O-])O)=O)C | C18H26N2O4
reactant | hydrogen | [H][H] | H2
reactant | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.40 g | [Pd] | Pd
product | 3-Formamido-2-hydroxy-N-(3-ethyl-3,5,5-trimethylcyclohexyl)-benzamide | C(=O)NC=1C(=C(C(=O)NC2CC(CC(C2)(C)C)(C)CC)C=CC1)O | C19H28N2O3
